US06090571
c. Phenyl 3-methoxyacridine-9-carboxylate
3-Methoxy-acridine-9-carboxylic acid (0.50 g) was suspended in 10 mL thionyl chloride (3-10 mL) and reaction mixture was refluxed for 3 h. The solvent was removed under reduced pressure to obtain a yellow solid which was dissolved in CH2Cl2 and pyridine (0.44 g) under argon. A solution of 2,6-difluorophenol (0.32 g) in CH2Cl2 was added dropwise. The solution was stirred overnight at room temperature then diluted with more CH2Cl2 (100 mL) and washed with water (3×50 mL) . The organic layer was dried over Na2SO4 and concentrated to obtain the product which was further purified by chromatography on silica gel (30% ethyl acetate/hexane) to yield the pure product as a creamy solid. 1H NMR (acetone-d6) δ 4.08 (s, 3H), 7.39-8.29 (m, 12H).

reactant | 3-Methoxy-acridine-9-carboxylic acid | 0.50 g | COC=1C=CC2=C(C3=CC=CC=C3N=C2C1)C(=O)O | C15H11NO3
reactant | pyridine | 0.44 g | N1=CC=CC=C1 | C5H5N
reactant | 2,6-difluorophenol | 0.32 g | FC1=C(C(=CC=C1)F)O | C6H4F2O
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Phenyl 3-methoxyacridine-9-carboxylate | COC=1C=CC2=C(C3=CC=CC=C3N=C2C1)C(=O)OC1=CC=CC=C1 | C21H15NO3
